US04367238
Ozone gas was introduced into a solution of 2-(2-chlorophenylthio)-6-(1-propenyl)phenol (26 g) in a mixture of ethyl acetate (200 ml) and acetic acid (10 ml) at temperature below 0° C. with stirring for an hour. The precipitates were collected by filtration, washed with ethyl acetate and then dried to give 2-hydroxy-3-(2-chlorophenylthio)benzaldehyde (15.9 g), mp. 111°-112.5° C. The filtrate and washings were combined, washed with dil. aqueous sodium hydrogen sulfite, saturated aqueous sodium bicarbonate and water in turn, dried over magnesium sulfate and then evaporated under reduced pressure. The residue was washed with methanol and dried to give the same product (3.2 g). Total yield 19.1 g.

reactant | Ozone | O=[O+][O-] | O3
reactant | 2-(2-chlorophenylthio)-6-(1-propenyl)phenol | 26 g | ClC1=C(C=CC=C1)SC1=C(C(=CC=C1)C=CC)O | C15H13ClOS
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 2-hydroxy-3-(2-chlorophenylthio)benzaldehyde | 15.9 g | OC1=C(C=O)C=CC=C1SC1=C(C=CC=C1)Cl | C13H9ClO2S
